US08048881B2
96.1. 4-((S)-4-tert-butoxycarbonyl-2-{[6-(3-carboxy-phenyl)-2-phenyl-pyrimidine-4-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester
This compound was prepared using a method analogous to that of Example 86, step 86.1, 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester replacing 2-chloro-6-methyl-pyrimidine-4-carboxylic acid methyl ester and 3-carboxyphenylboronic acid replacing phenylboronic acid.

reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)Cl)C1=CC=CC=C1)=O | C27H34ClN5O6
reactant | 3-carboxyphenylboronic acid | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
product | 4-((S)-4-tert-butoxycarbonyl-2-{[6-(3-carboxy-phenyl)-2-phenyl-pyrimidine-4-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)C1=CC(=CC=C1)C(=O)O)C1=CC=CC=C1)=O | C34H39N5O8
